US05589502
A solution of 2.07 g of ethyl (2R,3S)-3-cyclopropyl-3-tert -butoxycarbonylamino-2-hydroxypropionate and 213 mg of pyridinium p-toluenesulfonate in 125 ml of toluene is refluxed under heating. To the mixture is added dropwise a solution of 2.76 g of p-anisaldehydedimethylacetal in 25 ml of toluene for 20 minutes. The reaction mixture is evaporated to remove the generated methanol. The mixture is stirred under heating for 1.5 hours and cooled. After the reaction mixture is condensed under reduced pressure, ethyl acetate and water are added to the residue. The ethyl acetate layer is obtained by separation. The aqueous layer is extracted with ethyl acetate. The extract is washed with water and brine, dried and condensed under reduced pressure. The residue is purified by silica gel column chromatography (solvent; toluene:ethyl acetate=40:1) to give 1.572 g of ethyl (4S,5R)-3-tert-butoxycarbonyl-2-(4-methoxyphenyl)-4-cyclopropyl-5-oxazolidinecarboxylate (diastereomeric mixture).

reactant | ethyl (2R,3S)-3-cyclopropyl-3-tert -butoxycarbonylamino-2-hydroxypropionate | 2.07 g | C1(CC1)[C@@H]([C@H](C(=O)OCC)O)NC(=O)OC(C)(C)C | C13H23NO5
reactant | pyridinium p-toluenesulfonate | 213 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | p-anisaldehydedimethylacetal | 2.76 g | COC1=CC=C(C=C1)C(OC)OC | C10H14O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 125 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl (4S,5R)-3-tert-butoxycarbonyl-2-(4-methoxyphenyl)-4-cyclopropyl-5-oxazolidinecarboxylate | 1.572 g, Yield: 53% | C(C)(C)(C)OC(=O)N1C(O[C@H]([C@@H]1C1CC1)C(=O)OCC)C1=CC=C(C=C1)OC | C21H29NO6
